US09303023B2
A flask was charged with 4-nitro-1H-pyrazole (230 mg, 2.03 mmol), 2-chloro-N-(5-fluoropyridin-2-yl)acetamide (2.24 mmol), Cs2CO3 (729 g, 2.24 mmol) and MeCN (11.5 mL). The resulting reaction mixture was stirred at reflux (80° C.) for 2 h, then allowed to reach rt. The mixture was diluted with DCM, filtered, the filter cake was washed with DCM. The filtercake was redisolved in DCM and water, the org. layer was separated and the aq. layer was extracted with DCM (2×). The combined org. layers were washed with brine, dried (MgSO4), filtered and concentrated to yield N-(5-fluoropyridin-2-yl)-2-(4-nitro-1H-pyrazol-1-yl)acetamide as a crude which was used in the next step without further purification. LC-MS conditions A: tR=0.67 min, [M+H]+=266.32.

reactant | 4-nitro-1H-pyrazole | 2.03 mmol, 230 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 2-chloro-N-(5-fluoropyridin-2-yl)acetamide | 2.24 mmol | ClCC(=O)NC1=NC=C(C=C1)F | C7H6ClFN2O
reactant | Cs2CO3 | 2.24 mmol, 729 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | MeCN | 11.5 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(5-fluoropyridin-2-yl)-2-(4-nitro-1H-pyrazol-1-yl)acetamide | FC=1C=CC(=NC1)NC(CN1N=CC(=C1)[N+](=O)[O-])=O | C10H8FN5O3
